US06380249B1
4-[3-(2,4-Difluoro-benzyl)-phenyl]-2,4-dioxo-butyric acid L2
In a manner similar to example AIV-2-1, 4-[3-(2,4-difluoro-benzyl)-phenyl]-2,4-dioxo-butyric acid ethyl ester was formed and the crude material was hydrolyzed in a manner similar to example AIV-3-1 using 1N NaOH to afford L2 as a yellow solid. Rf=0.60 (6:6:94 MeOH/AcOH/CH2Cl2). 1H NMR (400 MHz, CDCl3) δ7.85 (m, 2H), 7.45 (m, 2H), 7.13 (m, 2H), 6.82 (m, 2H), 4.03 (s, 2H). mass spec (FAB, M+1) 319 m/e.

reactant | 4-[3-(2,4-difluoro-benzyl)-phenyl]-2,4-dioxo-butyric acid ethyl ester | C(C)OC(C(CC(=O)C1=CC(=CC=C1)CC1=C(C=C(C=C1)F)F)=O)=O | C19H16F2O4
reactant | NaOH | 1N | [OH-].[Na+]
solvent | MeOH AcOH CH2Cl2 | CO.CC(=O)O.C(Cl)Cl
product | 4-[3-(2,4-Difluoro-benzyl)-phenyl]-2,4-dioxo-butyric acid | FC1=C(CC=2C=C(C=CC2)C(CC(C(=O)O)=O)=O)C=CC(=C1)F | C17H12F2O4
